US05457099
Preparation of 3,4-dihydro-4-[2-[4-(1H-indol-3-yl)-1-piperidinyl]ethyl]-2(1H)-quinolinone (IV-1)
A suspension of 4-(2-bromoethyl)-3,4-dihydro-2(1H)-quinolinone (II'-1) (500 mg, 1.97 mmol),3-(4-piperidinyl)-1H-indole (394.5 mg, 1.97 mmol) and sodium hydrogencarbonate (248.7 mg, 2.96 mmol) in dry dimethylformamide (5 ml) was allowed to react at 90 ° C. for 4 hours. Ice-water (50 ml) was poured into the reaction mixture and then the separated solid was filtered by aspiration. The residue was washed with water and dissolved in chloroform (50 ml). The solution was dried (anhydrous magnesium sulfate) and the solvent was distilled off. The residue was dissolved in developing solvent (chloroform: methanol=85:15) and purified by silica gel column chromatography (chloroform: methanol=85:15). After removing the first eluted impurity , a colorless solution was collected and the solvent distilled off to give the desired product (IV-1) (540 mg) as a pale yellow solid (yield 73.4%, mp 115°-117 ° C. (methanol/tetrahydrofuran/water).

reactant | 4-(2-bromoethyl)-3,4-dihydro-2(1H)-quinolinone | 1.97 mmol, 500 mg | BrCCC1CC(NC2=CC=CC=C12)=O | C11H12BrNO
reactant | 3-(4-piperidinyl)-1H-indole | 1.97 mmol, 394.5 mg | N1CCC(CC1)C1=CNC2=CC=CC=C12 | C13H16N2
reactant | sodium hydrogencarbonate | 2.96 mmol, 248.7 mg | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3,4-dihydro-4-[2-[4-(1H-indol-3-yl)-1-piperidinyl]ethyl]-2(1H)-quinolinone | 540 mg, yield 73.4% | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CCC1CC(NC2=CC=CC=C12)=O | C24H27N3O
